US05990116
6-[2-(2,5-Dimethoxyphenyl)ethyl]-3-methyl-4quinazolinone (Process e)
34 mg of 6-[2-(2,5-dimethoxyphenyl)ethyl]-4-quinazolinone are dissolved in 4 ml of dimethylformamide and treated with 4 mg of sodium hydride (80% in mineral oil). After stirring for 30 minutes, 0.1 ml of methyl iodide are added, and stirring is continued for 1 hour. The mixture is poured onto water and extracted with ethyl acetate. The combined organic layers are dried over magnesium sulfate and concentrated in vacuo. Silica gel chromatography (cyclohexane/ethyl acetate=1/2) of the residue gives the title compound as colourless crystals. mp: 83-85°.

reactant | 6-[2-(2,5-dimethoxyphenyl)ethyl]-4-quinazolinone | 34 mg | COC1=C(C=C(C=C1)OC)CCC=1C=C2C(NC=NC2=CC1)=O | C18H18N2O3
reactant | sodium hydride | 4 mg | [H-].[Na+]
reactant | methyl iodide | 0.1 ml | CI | CH3I
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 6-[2-(2,5-Dimethoxyphenyl)ethyl]-3-methyl-4quinazolinone | COC1=C(C=C(C=C1)OC)CCC=1C=C2C(N(C=NC2=CC1)C)=O | C19H20N2O3
